Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
chills, rigors
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of Stage I breast ca s/p lumpectomy, mild-moderate 
aortic stenosis, htn, diverticulitis s/p sigmoid colectomy 
presenting with chills and rigors x1 day. Per pt, was at home in 
the morning when she noted the onset of profound chills and 
shaking. She does not recall being confused. She denies dysuria, 
hematuria, urinary frequency, suprapubic pain, flank pain, N/V, 
cough, rhinorrhea. She was brought to the ED for further 
evaluation of chills and rigors. Per ED notes, symptoms were 
apparently accompanied by malaise and delirium, which pt 
currently denies. 

In the ___ ED:
VS 100.0, 112, 136/58, 97% RA
Labs notable for WBC 10.4, Cr 1.3, LA 2.8, positive UA
CXR unremarkable
BCx and UCx sent
Received 2L NS, Tylenol, ceftriaxone 1 gm IV x1
Admitted to medicine for UTI
 
Past Medical History:
Per review of Atrius records:
Thrombocytopenia ___ Mild. Not on asa
GERD 
CANCER - BREAST, FEMALE-left ___ Left mass solid mass, 
u/s core bx ___ INVASIVE DUCTAL CARCINOMA, PR/ER/Her2 pos. 
Stage I, s/p lumpectomy on ___
Aortic valve stenosis ___, Echo ___ to mod as, nl 
ef
Pulmonary nodules/lesions, multiple ___ Ct a/p ___ at 
___: rml 4mm and lll 6mm nodules.  Chest ct ___ showed multiple 
subcm lung nodules. Stable in ___ and ___. 
Osteopenia 
DIVERTICULITIS S/p lap sigmoid colectomy ___ due to 
diverticular abscess and colon-vesicular fistula at ___
HYPERTENSION - ESSENTIAL, BENIGN   
Colonic adenoma  
HLD
HISTORY TOTAL HIP REPLACEMENT  
Hearing loss, sensorineural
OSTEOARTHRITIS, B/l knee, 

 
Social History:
___
Family History:
Brothers and father with CAD
 
Physical Exam:
VS: 97.1, 111/56, 73, 97% RA
Gen: Very pleasant elderly female lying in bed, NAD
HEENT: PERRL, EOMI, clear oropharynx
Neck: supple, no cervical or supraclavicular adenopathy
CV: RRR, ___ systolic murmur at RUSB with radiation to apex
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, trace TTP at suprapubic and periumbilical region, 
+BS, no rebound or guarding
GU: No foley, no CVA TTP
Ext: WWP, 1+ pitting edema bilaterally
Neuro: A+O x3, alert, interactive, motor function grossly intact
 
Pertinent Results:
___ 11:22PM   ___ COMMENTS-GREEN
___ 11:22PM   LACTATE-2.8*
___ 11:00PM   GLUCOSE-200* UREA N-28* CREAT-1.3* SODIUM-137 
POTASSIUM-4.4 CHLORIDE-99 TOTAL CO2-24 ANION GAP-18
___ 11:00PM   estGFR-Using this
___ 11:00PM URINE  HOURS-RANDOM
___ 11:00PM URINE  UHOLD-HOLD
___ 11:00PM   WBC-10.4* RBC-3.49* HGB-10.1* HCT-31.1* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-13.4 RDWSD-43.5
___ 11:00PM   NEUTS-89.4* LYMPHS-4.0* MONOS-5.8 EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-9.31* AbsLymp-0.42* AbsMono-0.60 
AbsEos-0.02* AbsBaso-0.02
___ 11:00PM   PLT COUNT-141*
___ 11:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 11:00PM URINE  BLOOD-TR NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 11:00PM URINE  RBC-12* WBC->182* BACTERIA-MOD 
YEAST-NONE EPI-1 RENAL EPI-<1
___ 11:00PM URINE  WBCCLUMP-OCC

CXR: No acute process (my read)

___ 11:00 pm URINE

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 

 
Brief Hospital Course:
___ with hx of Stage I breast ca s/p lumpectomy, mild-moderate 
aortic stenosis, htn, diverticulitis s/p sigmoid colectomy 
presenting with chills and rigors x1 day, with floridly positive 
UA.

# UTI: Pt endorses chills, rigors, with low grade temp in ED to 
100.0, trace suprapubic TTP with palpation, without CVA 
tenderness or nausea. No other localizing symptoms, all 
suggestive of UTI. Modestly elevated lactate to 2.8 on 
admission. Received CTX with transition to po cefpodoxime on 
discharge. Felt better on discharge.

# ___: Baseline Cr is 1.0-1.2 based on review of Atrius records. 
___ likely reflects prerenal etiology in setting of UTI. 
Improved with fluids.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Cefpodoxime Proxetil 400 mg PO Q24H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
urinary tract infection
 
Discharge Condition:
Mental Status: Clear and coherent.
 
Discharge Instructions:
You were admitted with a urinary tract infection. You are being 
treated with antibiotics. Please complete the antibiotic course.
 
Followup Instructions:
___